US07772226B2
(d) 3-(2-Butynyl)-2-[1-(4-methoxybenzyl)-1,2,3,6-tetrahydropyridin-4-yl]-5-methyl-3,5-dihydroimidazo[4,5-d]pyridazin-4-one
0.020 g of sodium borohydride was added to a 5 ml methanol solution of 0.060 g of 4-[1-(2-butynyl)-6-methyl-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl]-1-(4-methoxybenzyl)pyridinium chloride, and the mixture was stirred for one hour. 15 ml of water and 0.1 ml of 5N hydrochloric acid were added to the solution to quench the reducing agent. Then, the solution was made alkaline with 1 ml of 5N sodium hydroxide, and extracted with 30 ml of ethyl acetate. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 0.033 g of the title compound was obtained from the fraction eluted with methanol-ethyl acetate (1:19).

reactant | sodium borohydride | 0.020 g | [BH4-].[Na+]
reactant | methanol | 5 ml | CO | CH4O
reactant | 4-[1-(2-butynyl)-6-methyl-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl]-1-(4-methoxybenzyl)pyridinium chloride | 0.060 g | [Cl-].C(C#CC)N1C(=NC2=C1C(N(N=C2)C)=O)C2=CC=[N+](C=C2)CC2=CC=C(C=C2)OC
reactant | hydrochloric acid | 5N, 0.1 ml | Cl | ClH
solvent | water | 15 ml | O | H2O
product | 3-(2-Butynyl)-2-[1-(4-methoxybenzyl)-1,2,3,6-tetrahydropyridin-4-yl]-5-methyl-3,5-dihydroimidazo[4,5-d]pyridazin-4-one | 0.033 g | C(C#CC)N1C(=NC=2C=NN(C(C21)=O)C)C=2CCN(CC2)CC2=CC=C(C=C2)OC | C23H25N5O2
